US07544697B2
To a solution of 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carbonitrile (14.1 g, 45.7 mmol) and potassium acetate (6.73 g, 68.6 mmol) in acetic acid (91 mL) and dichloromethane (46 mL) was slowly added bromine (3.28 g, 64.0 mmol). The mixture was stirred for one day. Saturated aqueous sodium hydrogensulfite was added until the mixture became colorless, then the mixture was concentrated under reduced pressure to form a slurry. Water (450 mL) was added to the slurry and a white solid was isolated by filtration, washed with water, and dried to afford 17.24 g of 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carbonitrile as a white solid.

reactant | 5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carbonitrile | 45.7 mmol, 14.1 g | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CC(=NN1CCC)C#N | C17H16N4O2
reactant | potassium acetate | 68.6 mmol, 6.73 g | C(C)(=O)[O-].[K+]
reactant | bromine | 64.0 mmol, 3.28 g | BrBr | Br2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 91 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 46 mL | ClCCl | CH2Cl2
solvent | Water | 450 mL | O | H2O
product | 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carbonitrile | 17.24 g | BrC=1C(=NN(C1CCN1C(C2=CC=CC=C2C1=O)=O)CCC)C#N | C17H15BrN4O2
